US07727997B2
Methyl 3-(hydroxymethyl)-5-methylbenzoate
To a stirred solution of methyl 3-bromo-5-(hydroxymethyl)benzoate (3.0 g, 12.2 mmol) in dioxane (27 mL) is added cesium carbonate (4.0 g, 12.2 mmol), potassium carbonate (34 g, 24.4 mmol), and palladium(0)tetrakis(triphenylphosphine) (704 mg, 0.61 mmol), followed by trimethyl boroxine (1.7 mL, 12.2 mmol). The reaction mixture is refluxed for 5 h, cooled to room temperature, and then partitioned between water and ethyl acetate. The organic layer is washed with water, saturated sodium bicarbonate, and brine, dried (magnesium sulfate), filtered, and concentrated under reduced pressure. Purification by flash column chromatography (silica, 20% ethyl acetate/hexanes) provides the title compound. ESI MS m/z 181.2 [M+H]+.

reactant | methyl 3-bromo-5-(hydroxymethyl)benzoate | 12.2 mmol, 3.0 g | BrC=1C=C(C(=O)OC)C=C(C1)CO | C9H9BrO3
reactant | cesium carbonate | 12.2 mmol, 4.0 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | potassium carbonate | 24.4 mmol, 34 g | C([O-])([O-])=O.[K+].[K+]
reactant | trimethyl boroxine | 12.2 mmol, 1.7 mL | CB1OB(OB(O1)C)C | C3H9B3O3
solvent | dioxane | 27 mL | O1CCOCC1 | C4H8O2
product | Methyl 3-(hydroxymethyl)-5-methylbenzoate | OCC=1C=C(C(=O)OC)C=C(C1)C | C10H12O3
